US06288096B1
44 g (0.39 mole) methanesulfonyl chloride was slowly added to a solution of 30 g (0.178 mole) homovanillyl alcohol and 45.3 g (0.45 mmole) triethylamine in 500 ml dichloromethane at −10° C. After stirring at room temperature over night the salts were filtered off, the organic phase was washed with sodium bicarbonate and brine, dried (magnesium sulfate) and evaporated in vacuo to give 50 g (yield 86%) of 3-methoxy-4-(methylsulfonyloxy)phenethyl methanesulfonate.

reactant | methanesulfonyl chloride | 0.39 mole, 44 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | homovanillyl alcohol | 0.178 mole, 30 g | C(CC1=CC(OC)=C(O)C=C1)O | C9H12O3
reactant | triethylamine | 0.45 mmole, 45.3 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
product | 3-methoxy-4-(methylsulfonyloxy)phenethyl methanesulfonate | 50 g, yield 86% | CS(=O)(=O)OCCC1=CC(=C(C=C1)OS(=O)(=O)C)OC | C11H16O7S2
